US05661183
Methyl 2,4-dichloro-5-methoxy-3-methylbenzoate
2,4-Dichloro-5-methoxy-3-methylphenyl triflate (7.60 g, 22.4 mmol) was dissolved in dioxan (75 mL), 1,3-bis (diphenylphosphino)propane (371 mg, 0.90 mmol) and palladium acetate (202 mg, 0.90 mmol) were added. After flushing with CO, Et3N (6.90 mL, 49.4 mmol) and MeOH (23 mL) were added. Reaction with CO at 70° C. and at atmospheric pressure for 25° C., filtration and evaporation, of the solvent partition of the residue between Et2O (350 mL) and 3M NH3 (150 mL), extraction of the aqueous layer with Et2O (2×150 mL) followed by washing the combined organic phase with brine (150 mL), drying (MgSO4), evaporation of the solvent gave a crude product. Filtration through SiO2 using EtOAc as the eluent gave 5.2 g of a product which was purified by flash column chromatograhy (SiO2, EtOAc-Hexane 1:3) to yield 4.18 g of the title compound. Mp: 74° C.; 1H NMR(DMSO-d6): δ 7.33 (s, 1H), 3.88 (s, 3H), 3.86 (s, 3H), 2.45 (s, 3H); 13C NMR (DMSO-d6) : δ 165.69, 153.26, 136.09, 130.46, 125.22, 122.95, 110.78, 56.64, 52.72, 17.86; MS (EI, 70 eV): m/z (rel.int.) 250/248 (M+, 53/80), 219/217 (66/100), 191/189 (8/12).

reactant | 2,4-Dichloro-5-methoxy-3-methylphenyl triflate | 22.4 mmol, 7.60 g | O(S(=O)(=O)C(F)(F)F)C1=C(C(=C(C(=C1)OC)Cl)C)Cl | C9H7Cl2F3O4S
reactant | Et3N | 49.4 mmol, 6.90 mL | CCN(CC)CC | C6H15N
reactant | MeOH | 23 mL | CO | CH4O
reactant | dioxan | 75 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.90 mmol, 202 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis (diphenylphosphino)propane | 0.90 mmol, 371 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | Methyl 2,4-dichloro-5-methoxy-3-methylbenzoate | 5.2 g | ClC1=C(C(=O)OC)C=C(C(=C1C)Cl)OC | C10H10Cl2O3
